US05559080
3,5-Dichloropyridazine, which is known in the art, (2.0 g, 0.0135 moles) and sodium thiomethoxide (1.14 g, 0.0162 moles) were stirred in THF (50 mL) at RT under N2 for 2 h. The mixture was then poured into water and extracted 2×100 mL with ethyl acetate. The organic layer was dried (MgSO4), filtered and evaporated in-vacuo to give a crude solid which was recrystallized from cyclohexane/ethyl acetate to give 3-chloro-5(methylthio)pyridazine (1.64 g, 76% yield) as a brown solid, mp=98° C.-100° C.

reactant | 3,5-Dichloropyridazine | ClC=1N=NC=C(C1)Cl | C4H2Cl2N2
reactant | sodium thiomethoxide | 0.0162 moles, 1.14 g | C[S-].[Na+]
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-chloro-5(methylthio)pyridazine | 1.64 g, 76% yield | ClC=1N=NC=C(C1)SC | C5H5ClN2S
